data/mechanism_extracts/GreenChem/10.1039_C8GC01337C.json
{"doi": "10.1039_C8GC01337C", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative oxysulfuration of alkenes with thiophenols and oxygen nucleophiles (water/alcohols/carboxylic acids) to give β-hydroxy sulfides, β-alkoxy sulfides, and thio-substituted γ-lactones.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of thiophenol to aryl sulfur radical, and a second anodic oxidation of the resulting benzylic C-radical to a carbocation; cathode reduces protons to H2 and regenerates aryl sulfide anion.", "key_intermediates": [{"name": "aryl sulfur radical (ArS•)", "smiles": "[S]c1ccc(Cl)cc1", "role": "reactive"}, {"name": "β-thioether benzylic carbon radical (B)", "smiles": null, "role": "transient"}, {"name": "β-thioether benzylic carbocation (C)", "smiles": null, "role": "reactive"}, {"name": "aryl sulfide anion (ArS−, D)", "smiles": "[S-]c1ccc(Cl)cc1", "role": "transient"}], "electron_flow": "At the anode, ArSH is oxidized by SET to ArS•, which adds to the alkene to give a benzylic radical B; B is further oxidized at the anode to benzylic cation C, which is trapped by the O-nucleophile (H2O, ROH, or carboxylate) to deliver the oxysulfuration product and a proton. At the cathode, protons are reduced to H2 while ArSH/ArS− is regenerated.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (toluylene, 49)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trapping product 50 isolated in 72% yield, consistent with involvement of radical intermediates (ArS• adding to alkene)."}, {"name": "cyclic voltammetry of 4-chlorothiophenol (34)", "smiles": "Sc1ccc(Cl)cc1", "purpose": "redox_probe", "observation": "Oxidation peak at 1.99 V and reduction peak at -1.33 V in MeCN; both fall within the applied cell potential, supporting thiophenol involvement in both anodic and cathodic processes."}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Lower yields for styrenes (secondary benzyl radical) vs α-methylstyrenes (tertiary benzyl radical) are taken as additional evidence for a radical pathway. The mechanism is presented as a paired electrolysis: anodic oxidation generates ArS• and the cation, while cathodic proton reduction releases H2 and regenerates ArSH via ArS−."}
